US07777047B2
N-[2-(benzylthio)-3-(hydroxyimino)-2-methylpropyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
A mixture of N-[2-(benzylthio)-2-methyl-3-oxopropyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (1.00 g), hydroxylamine hydrochloride (0.26 g), potassium carbonate (0.52 g) and methanol (8 ml) was stirred at room temperature for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated to give the title compound (0.25 g, yield 55%) as colorless amorphous crystals. MS: 543 (MH+).

reactant | N-[2-(benzylthio)-2-methyl-3-oxopropyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 1.00 g | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)(C=O)C | C25H25N3O4S3
reactant | hydroxylamine hydrochloride | 0.26 g | Cl.NO
reactant | potassium carbonate | 0.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 8 ml | CO | CH4O
solvent | Water | O | H2O
product | N-[2-(benzylthio)-3-(hydroxyimino)-2-methylpropyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 0.25 g, yield 55% | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)(C=NO)C | C25H26N4O4S3
